US06914058B2
{1-[4-(4-Dicyanomethylene-piperidin-1-yl)-3-fluoro-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester
To a stirred solution of malononitrilc (22 mg, 0.33 mmol) and CsF (42 mg, 0.28 mmol) in ethanol (5 ml) was added {1-[3-Fluoro-4-(4-oxo-piperidin-1-yl)-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester (100 mg, 0.28 mmol), obtained in Example 82. The reaction mixture was allowed to stir at room temperature for 2 h and then diluted with ethyl acetate (100 ml). The organic portion was washed with water followed by brine and dried over sodium sulfate. Removal of volatiles and purification of the resulting residue by silica gel column chromatography (ethyl acetate/pet. ether, 1:1), the title compound was obtained as white solid (45 mg, 40%). Mp. 198° C.

reactant | CsF | 0.28 mmol, 42 mg | [F-].[Cs+]
reactant | {1-[3-Fluoro-4-(4-oxo-piperidin-1-yl)-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester | 0.28 mmol, 100 mg | COC(NCC=1N=NN(C1)C1=CC(=C(C=C1)N1CCC(CC1)=O)F)=S | C16H18FN5O2S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | {1-[4-(4-Dicyanomethylene-piperidin-1-yl)-3-fluoro-phenyl]-1H-[1,2,3]triazol-4-ylmethyl}-thiocarbamic acid O-methyl ester | COC(NCC=1N=NN(C1)C1=CC(=C(C=C1)N1CCC(CC1)=C(C#N)C#N)F)=S | C19H18FN7OS
